US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 17, using 1.44 g (6.72 mmol) of 4-amino-1-benzyl-5-imidazolecarboxamide which was prepared in the same manner as in Reference Example 2 and 4-(N-t-butyloxycarbonyl-N-methylamino)butanoic acid, instead of 3-pyridylacetic acid hydrochloride, to obtain 1.86 g of 4-(4-(N-t-butyloxycarbonyl-N-methylamino)butanoylamino)-1-benzyl-5-imidazole carboxamide (yield 67%).

reactant | 4-amino-1-benzyl-5-imidazolecarboxamide | 6.72 mmol, 1.44 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | 4-(N-t-butyloxycarbonyl-N-methylamino)butanoic acid | C(C)(C)(C)OC(=O)N(C)CCCC(=O)O | C10H19NO4
reactant | 3-pyridylacetic acid hydrochloride | Cl.N1=CC(=CC=C1)CC(=O)O
product | 4-(4-(N-t-butyloxycarbonyl-N-methylamino)butanoylamino)-1-benzyl-5-imidazole carboxamide | 1.86 g, yield 67% | C(C)(C)(C)OC(=O)N(C)CCCC(=O)NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C21H29N5O4
